US07208513B2
A. 1-Perhydro-2H-pyran-2-yl-3-(2-phenylethynyl)-1H-indazole-5-carbonitrile
A mixture of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (400 mg, 1.31 mmol), 10.0 mL of acetonitrile (CH3CN), diisopropylethylamine (172 mg, 1.33 mmol, 1.01 equiv.), dichlorobis(triphenylphosphine)palladium(II) [(Ph3)P2PdCl2, 0.0187 mmol, 0.0143 equiv.), copper (I) iodide (CuI, 13.1 mg, 0.0688 mmol, 0.0525 equiv.), and phenylacetylene (147 mg, 1.44 mmol, 1.10 equiv.) were refluxed for 3 h and concentrated. Purification by silica gel chromatography using 20–30% EtOAc in hexanes afforded the title compound (327 mg, 76.2% yield): ES-MS (m/z) 328 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.31 mmol, 400 mg | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | diisopropylethylamine | 1.33 mmol, 172 mg, 1.01 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylacetylene | 1.44 mmol, 147 mg, 1.10 equiv. | C1(=CC=CC=C1)C#C | C8H6
catalyst | dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.0688 mmol, 13.1 mg, 0.0525 equiv. | [Cu]I
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | 1-Perhydro-2H-pyran-2-yl-3-(2-phenylethynyl)-1H-indazole-5-carbonitrile | 327 mg, 76.2% yield | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C#N)C#CC1=CC=CC=C1 | C21H17N3O
